US07429597B2
(c) C-(5-chloro-1H-benzimidazol-2-yl )-methylamine
4.62 g (16.4 mmol) N′-tert.-butoxycarbonyl-C-(5-chloro-1H-benzimidazol-2-yl)methylamine are dissolved in 100 ml saturated ethanolic hydrogen chloride solution and stirred for 2 hours at ambient temperature. Then all the volatile constituents are eliminated under reduced pressure and the crude product is further reacted.

reactant | N′-tert.-butoxycarbonyl-C-(5-chloro-1H-benzimidazol-2-yl)methylamine | 16.4 mmol, 4.62 g | C(C)(C)(C)OC(=O)N1C(NC2=C1C=C(C=C2)Cl)CN | C13H18ClN3O2
solvent | hydrogen chloride | 100 ml | Cl | ClH
product | C-(5-chloro-1H-benzimidazol-2-yl )-methylamine | ClC1=CC2=C(NC(=N2)CN)C=C1 | C8H8ClN3
